US07320972B2
4-{(2S,3R)-1-(4-fluorophenyl)-3-[(3S)-3-(4-fluorophenyl)-3-hydroxypropyl]-4-oxoazetidin-2-yl}phenyl trifluoromethanesulfonate (51.1 mg, 0.094 mmol) and 3-carboxyphenylboronic acid (21.9 mg, 0.132 mmol) were dissolved in 1:1 toluene:ethanol (2 mL). 2.0 M aqueous potassium carbonate (0.14 mL) was added and the solution degassed. Tetrakis(triphenylphosphine)palladium(0) (5.1 mg, 0.005 mmol) was added and the reaction stirred vigorously for 2 h at refluxing temperature under a nitrogen atmosphere. The cooled reaction was diluted into dichloromethane (15 mL), water (3 mL) was added and the pH was adjusted to 3 with 5% aqueous sodium bisulfate. The layers were separated and the aqueous layer extracted with dichloromethane (2×5 mL). The combined organic extracts were dried over sodium sulfate, filtered, concentrated and purified by chromatography (12 g silica gel, 5% methanol in dichloromethane) to afford 4′-{(2S,3R)-1-(4-fluorophenyl)-3-[(3S)-3-(4-fluorophenyl)-3-hydroxypropyl]-4-oxoazetidin-2-yl]biphenyl-3-carboxylic acid (41.9 mg, 86% yield) as a colorless foam; Rf 0.15 (5% methanol in dichloromethane); 1H NMR (300 MHz, CDCl3) δ?8.31 (m, 1H), 8.09 (dt, J=7.8, 1.5 Hz, 1H), 7.79-7.39 (m, 6H), 7.23-7.32 (m, 4H), 6.90-7.02 (m, 4H), 4.75 (t, J=5.7 Hz, 1H), 4.69 (d, J=2.1 Hz), 3.12 (m, 1H), 2.10-1.90 (m, 4H) ppm; MS [M−H] 512.5. In the same manner was obtained:

reactant | 4-{(2S,3R)-1-(4-fluorophenyl)-3-[(3S)-3-(4-fluorophenyl)-3-hydroxypropyl]-4-oxoazetidin-2-yl}phenyl trifluoromethanesulfonate | 0.094 mmol, 51.1 mg | FC(S(=O)(=O)OC1=CC=C(C=C1)[C@H]1N(C([C@@H]1CC[C@H](O)C1=CC=C(C=C1)F)=O)C1=CC=C(C=C1)F)(F)F | C25H20F5NO5S
reactant | 3-carboxyphenylboronic acid | 0.132 mmol, 21.9 mg | C(=O)(O)C=1C=C(C=CC1)B(O)O | C7H7BO4
reactant | potassium carbonate | 2.0 M, 0.14 mL | C([O-])([O-])=O.[K+].[K+]
reactant | sodium bisulfate | S([O-])(O)(=O)=O.[Na+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.005 mmol, 5.1 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 3 mL | O | H2O
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | 4′-{(2S,3R)-1-(4-fluorophenyl)-3-[(3S)-3-(4-fluorophenyl)-3-hydroxypropyl]-4-oxoazetidin-2-yl]biphenyl-3-carboxylic acid | 41.9 mg, 86% yield | FC1=CC=C(C=C1)N1[C@@H]([C@H](C1=O)CC[C@H](O)C1=CC=C(C=C1)F)C1=CC=C(C=C1)C1=CC(=CC=C1)C(=O)O | C31H25F2NO4
